US04404206
N-[3-mercapto 2-(RS) methylpropionyl] 2-(RS) carboxy perhydroindole
Using the method described in example 1, beginning with 3-acetylthio 2-(RS) methylpropionic acid and 2-(RS) carbethoxy perhydroindole, prepared by reduction of 2(RS) carbethoxy indoline according to the method described in example 13, the following are obtained successively:

reactant | 3-acetylthio 2-(RS) methylpropionic acid | C(C)(=O)SCC(C(=O)O)C | C6H10O3S
reactant | 2-(RS) carbethoxy perhydroindole | C(=O)(OCC)C1NC2CCCCC2C1 | C11H19NO2
reactant | 2(RS) carbethoxy indoline | C(=O)(OCC)C1NC2=CC=CC=C2C1 | C11H13NO2
product | N-[3-mercapto 2-(RS) methylpropionyl] 2-(RS) carboxy perhydroindole | SCC(C(=O)N1C(CC2CCCCC12)C(=O)O)C | C13H21NO3S
